US05166214
Preparation of 2,4-difluoro-N-[(5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl)]-N-heptylbenzeneacetamide
To a solution of N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-1-heptanamine (2.2 g, 0.005 mol), 1-hydroxybenzotriazole hydrate (0.81 g, 0.006 mol), and 2,4-difluorophenylacetic acid (1.12 g, 0.0065 mol) in N,N-dimethylformamide (50 mL) at 0° was added, portionwise as a solid, dicyclohexylcarbodiimide (1.24 g, 0.006 mol). The reaction mixture was stirred at 0° for 2.5 hours, then at ambient temperature for 72 hours. The solids were filtered and washed with chloroform. The filtrate was concentrated under vacuum and the residue (5.2 g) was chromatographed with 7:3 hexane-ethyl acetate. The resulting solid was triturated with hexane to give the title compound (2.59 g, 0.0044 mol) as a yellow oil. 1H NMR (CDCl3) δ7.6-7.0(m,11H), 6.8-6.5(m,2H), 3.7(d,2H,J=13.7Hz), 3.5(t,2H,J=6.4Hz), 3.4-3.0(m,3H), 2.9(t,2 H,J=6.1Hz), 1.8-1.1(m,17H), 0.9(t,3H,J=6.6Hz).

reactant | N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-1-heptanamine | 0.005 mol, 2.2 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCNCCCCCCC | C27H37N3S
reactant | 1-hydroxybenzotriazole hydrate | 0.006 mol, 0.81 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2,4-difluorophenylacetic acid | 0.0065 mol, 1.12 g | FC1=C(C=CC(=C1)F)CC(=O)O | C8H6F2O2
reactant | dicyclohexylcarbodiimide | 0.006 mol, 1.24 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2,4-difluoro-N-[(5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl)]-N-heptylbenzeneacetamide | 0.0044 mol, 2.59 g | FC1=C(C=CC(=C1)F)CC(=O)N(CCCCCCC)CCCCCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C35H41F2N3OS
